Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Wellbutrin / Lipitor / avocado
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hx of htn, NIDDM2, GERD, recent pancreatitis with
MRCP demonstrating pancreatic head mass, s/p EUS on ___,
presenting with post procedural abdominal pain. 

Pt is a practicing physician. He reports that, after the
procedure he had some epigastric discomfort for which he took
percocet. He awoke the following day with ___ epigastric pain,
with associated nausea without emesis, with pain described as
pressure; he is unsure if it radiated to his back. He took
tylenol at home with very modest relief. Denies F/C. He has a
history of prostate cancer and has had some discomfort with
initiation of stream since then; he has had no changes in his
chronic urinary symptoms. Denies hematuria. He has noted
occasional blood on TP which he attributes to hemorrhoidal
bleeding. Denies chest pain, SOB, ___ edema. 

Pt's wife contact ERCP fellow on call, reporting pt's severe
abdominal pain, without BM x2 days. Of note, he did have severe
abdominal pain in ___ with ?ileus vs obstruction, which
resolved during an extended hospitalization with supportive 
care.
ERCP fellow advised pt to present to ED for further evaluation
based on this history.

In terms of his recent history prior to procedure, after an
episode of pancreatitis in ___, pt underwent MRCP on ___
(Atrius), which revealed: "4.1 x 3.5 x 3.1 cm mass in the head 
of
the pancreas with obstruction of the common bile duct with
resultant intrahepatic duct dilatation.  There is also 
encasement
of the portal vein confluence, including approximately 1 cm of
the distal SMV, and 2 cm of proximal portal vein.  Additional
diffuse edema of the body and tail of the pancreas, raises the
possibility of a process other than adenocarcinoma of the
pancreas such as autoimmune pancreatitis (IgG4 disease).
Endoscopic ultrasound and biopsy is recommended." For this
reason, he underwent EUS with FNA on ___.

In the ___ ED:
VS 98.2, 64, 151/86, 100% RA
Exam notable for:
General: Unwell appearing middle-aged male in acute distress
Abd: Soft, diffusely tender to palpation

Labs notable for:
WBC 5.3, Hb 12.0, plt 199
ALT 366, AST 191, Alk phos 256, Tbili 0.6
Lipase 150

Imaging: 
CT abd/pelvis with redemonstration of HOP mass, with resulting
biliary obstruction, and pancreatitia

Consults: GI - referred to ERCP

Received:
Morphine 4 mg IV x4
Zofran 4 mg 
IVF
Home medications

On arrival to the floor, pt describes ___ pain, no nausea.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
Hx of prostate cancer
Htn
Pancreatic head mass as per HPI
Borderline DM2
 
Social History:
___
Family History:
No known family history of cancer
 
Physical Exam:
ADMISSION EXAM:
VS: ___ 0145 Temp: 98.3 PO BP: 153/84 HR: 65 RR: 15 O2 sat:
97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect

DISCHARGE EXAM:
___
GEN: well appearing male in NAD
HEENT: MMM
CV: RRR no appreciated murmurs
LUNGs: CTAB no w.r
ABD: soft, no TTP, NABS, no rebound/guarding
GU: no foley
EXTR warm, no edema
NEURO: alert, appropriate, ambulating independently
 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:50PM BLOOD WBC-5.3 RBC-4.35* Hgb-12.0* Hct-37.6* 
MCV-86 MCH-27.6 MCHC-31.9* RDW-14.6 RDWSD-46.5* Plt ___
___ 12:50PM BLOOD Neuts-63.7 ___ Monos-13.5* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-3.39 AbsLymp-1.14* 
AbsMono-0.72 AbsEos-0.04 AbsBaso-0.01
___ 12:50PM BLOOD Glucose-155* UreaN-18 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-26 AnGap-12
___ 07:20AM BLOOD ALT-521* AST-290* AlkPhos-202* 
TotBili-0.6
___ 12:50PM BLOOD Albumin-3.8 Calcium-8.5 Phos-2.7 Mg-2.3

CT abd/pelv:
1. 3.7 cm heterogeneous mass in the head of the pancreas which 
attenuates the
portal confluence and SMV and causes biliary obstruction.  There 
appears to be
contact with the gastroduodenal artery near its origin which is 
not well
evaluated on this study.
2. Edematous appearing pancreatic body common neck, head, and 
uncinate process
with surrounding inflammation suggestive of pancreatitis.  No 
evidence of
necrosis or organized fluid collections.
3. No evidence of free intraperitoneal air or fluid collection 
to suggest
perforation.
4. Indeterminate left adrenal nodule, which is statistically 
likely to be an
adenoma.

EUS pancreas biopsy from ___: PENDING at the time of 
discharge

DISCHARGE LABS
___ 07:00AM BLOOD WBC-5.1 RBC-4.48* Hgb-12.4* Hct-38.2* 
MCV-85 MCH-27.7 MCHC-32.5 RDW-14.4 RDWSD-44.4 Plt ___
___ 07:00AM BLOOD Glucose-133* UreaN-14 Creat-0.9 Na-140 
K-4.1 Cl-101 HCO3-26 AnGap-13
___ 07:00AM BLOOD ALT-284* AST-157* LD(LDH)-236 
AlkPhos-319* TotBili-0.___ year old male with history of hypertension, diabetes, GERD, 
recent pancreatitis with MRCP demonstrating pancreatic head 
mass, s/p EUS on ___, presenting with post procedural 
abdominal pain, found to have biliary obstruction and 
pancreatitis. 

# Abdominal pain s/p EUS with biopsy
# Mild Pancreatitis:
# Biliary Dilation secondary to pancreatic head mass:   Pt p/w 
acute worsening in abd pain after EUS with biopsy and was found 
to have mildly elevated suggestive of pancreatitis.   He treated 
supportively with IVF and pain control resolution in abd pain.  
By the time of discharge, pt was tolerating a regular diet 
without pain or nausea and having regular BMs.     Labs revealed 
persistent hepatocellular injury though somewhat improved.   
Tbili remained normal.  Etiology of pancreatic head mass remains 
unclear though prelim pathology was suggestive of pancreatitis, 
possible IgG4 disease.    He was seen but the ERCP team who felt 
that he was safe for discharge home and plan is for his case to 
be reviewed at multidisciplinary conference on ___ evening.   
This plan was reviewed with patient and family who provided 
additional OSH imaging studies for the GI/ERCP team.   IgG4 and 
CA ___ were both pending at discharge.   Pt will be contacted 
by the GI team within ___ days with additional instructions for 
next steps.    Pt will need follow up LFTs next week.    Pt was 
discharged with plan to resume hydrocodone/tylenol for 
breakthrough pain as prescribed by his PCP and encouraged to 
take Miralax twice daily to prevent constipation.  

# Hypertension: Pt was continued on home amlodipine and 
losartan.

# History of prostate cancer:
# Mild radiation proctitis: Continued home tamsulosin

# Hyperlipidemia: Continued home rosuvastatin

# Depression: Continued home citalopram

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Citalopram 10 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. amLODIPine 5 mg PO DAILY 
5. TraZODone 25 mg PO QHS 
6. Rosuvastatin Calcium 10 mg PO QPM 
7. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO BID constipation 
hold if having diarrhea  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea  
3.  amLODIPine 5 mg PO DAILY  
4.  Citalopram 10 mg PO DAILY  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Rosuvastatin Calcium 10 mg PO QPM  
7.  Tamsulosin 0.4 mg PO QHS  
8.  TraZODone 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis
Pancreatic Mass, pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with abdominal and 
found to have evidence of pancreatitis after your recent 
procedure.  You improved with supportive care and the final 
pathology from your procedure is currently pending.  The 
multidisciplinary pancreas team will be meeting this evening to 
review all of your data and will be contacting you in the next 
few days to explain next steps.  You have a follow up 
appointment with your primary care physician to get repeat liver 
function tests and make sure that the GI work up is continuing 
to move forward.  Please continue taking the miralax twice daily 
while taking the pain meds prescribed by your primary care.   

Best wishes from your team at ___

 
Followup Instructions:
___